US20010027196A1
Following the method of Turner and Jacks (J. Org. Chem. 1989, 54, 4229), to a stirred solution of 9.4 ml (179 mmol) acetonitrile in 250 ml dry THF under argon at -78° C. was added dropwise 78.9 ml (78.9 mmol) lithium bis(trimethylsilyl)amide solution (1M in THF) and stirring continued for 30 minutes, after which a solution of 5.0 g (35.7 mmol) methyl 3-methyl-2-furoate in 20 ml THF was added dropwise and stirring continued while the reaction mixture was allowed to warm slowly to −20° C. The reaction mixture was then cannulated into a rapidly stirred solution of 1M hydrochloric acid at 0° C. The mixtured was extracted twice with ether and the combined organic phases dried over sodium sulfate and concentrated in vacuo. Chromatography (ethyl acetate/hexane 1/4) afforded 4.43 g (83%) 3-(3-methyl-furan-2-yl)-3-oxo-propionitrile as a yellow crystalline solid. EI-MS m/e (%): 149 (M+, 20), 109 ([M—CH2CN]+, 100).

reactant | acetonitrile | 179 mmol, 9.4 ml | C(C)#N | C2H3N
reactant | lithium bis(trimethylsilyl)amide | 78.9 mmol, 1M, 78.9 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl 3-methyl-2-furoate | 35.7 mmol, 5.0 g | CC1=C(OC=C1)C(=O)OC | C7H8O3
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(3-methyl-furan-2-yl)-3-oxo-propionitrile | 4.43 g, 83% | CC1=C(OC=C1)C(CC#N)=O | C8H7NO2
